US04587247
Hydrogen chloride gas was bubbled into a mixture containing 24 g (200 mmol) of (2-methoxyethoxy)ethanol, 6.0 g (200 mmol) of paraformaldehyde and 22 g (200 mmol) of powdered calcium chloride with stirring and cooling to -5° C. The HCl was continued for 4 hours as the temperature was allowed to rise gradually to 8° C. Celite was added and the reaction filtered. The filtrate was evaporated leaving 29.8 g of a cloudy oil. The oil was dissolved in methylene chloride and dried over molecular sieves. Evaporation furnished 19.3 g of [2-(2-methoxyethoxy)ethoxy]methyl chloride as an oil which was characterized by nuclear magnetic resonance.

reactant | (2-methoxyethoxy)ethanol | 200 mmol, 24 g | COCCOC(C)O | C5H12O3
reactant | paraformaldehyde | 200 mmol, 6.0 g | C=O | CH2O
reactant | calcium chloride | 200 mmol, 22 g | [Cl-].[Ca+2].[Cl-]
reactant | HCl | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [2-(2-methoxyethoxy)ethoxy]methyl chloride | 19.3 g | COCCOCCOCCl | C6H13ClO3
